US07947851B2
Step b) Formation of N-[(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)methyl]-4-[(4-fluorophenyl)ethynyl]-N-hexylbenzamide
The title compound was prepared following procedure described in example 20, step e) from 6-[(hexylamino)methyl]-2,2-dimethyl-4H-1,3-benzodioxin-4-one (490 mg, 1.68 mmol) and 4-[(4-fluorophenyl)ethynyl]benzoic acid (484 mg, 2.02 mmol). Purification of the crude product by flash chromatography on silicagel (EtOAc/c-Hex (20/80) gave 850 mg (98%) of the title compound. HPLC, Rt: 5.54 min (purity: 99.9%). LC/MS, M+(ESI): 514.1. 1H NMR (CDCl3) δ: 7.45-7.90 (m, 6H), 7.37 (d, J=8.1 Hz, 2H), 7.00 (t, J=8.8 Hz, 2H), 6.94 (d, J=8.5 Hz, 1H), 4.69 (s, 1.5H), 4.45 (s, 0.5H), 3.39 (s, 0.5H), 3.14 (s, 1.5H), 1.07-1.77 (m, 14H), 0.80 (m, 3H).

reactant | 6-[(hexylamino)methyl]-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 1.68 mmol, 490 mg | C(CCCCC)NCC1=CC2=C(OC(OC2=O)(C)C)C=C1 | C17H25NO3
reactant | 4-[(4-fluorophenyl)ethynyl]benzoic acid | 2.02 mmol, 484 mg | FC1=CC=C(C=C1)C#CC1=CC=C(C(=O)O)C=C1 | C15H9FO2
product | N-[(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)methyl]-4-[(4-fluorophenyl)ethynyl]-N-hexylbenzamide | 850 mg, 98% | CC1(OC(C2=C(O1)C=CC(=C2)CN(C(C2=CC=C(C=C2)C#CC2=CC=C(C=C2)F)=O)CCCCCC)=O)C | C32H32FNO4
